US04235820
3-Amino-7-iodo-5H-dibenzo[a,d]cyclohepten-5-one
3-Iodo-7-nitro-5H-dibenzo[a,d]cyclohepten-5-one (23.4 g., 0.062 mole) in 140 ml. of glacial acetic acid is heated to 90° and treated with stannous chloride dihydrate (52 g., 0.23 mole), added in portions as the solid. The temperature of the mixture is maintained between 95° and 100° throughout the addition and for 10-15 minutes thereafter. The mixture is then cooled to ca 50° and poured into 1 liter of ice water.

reactant | 3-Iodo-7-nitro-5H-dibenzo[a,d]cyclohepten-5-one | 0.062 mole, 23.4 g | IC=1C=CC2=C(C(C3=C(C=C2)C=CC(=C3)[N+](=O)[O-])=O)C1 | C15H8INO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Amino-7-iodo-5H-dibenzo[a,d]cyclohepten-5-one | NC=1C=CC2=C(C(C3=C(C=C2)C=CC(=C3)I)=O)C1 | C15H10INO
